US05416112
STEP 2: 4-amino-N-(4-chlorophenyl)-N-methylbenzamide
A solution of 4 ml (ca 40 mmol) of concentrated hydrochloric acid in 50 ml of ethanol and 50 ml of water was added dropwise over 2 hours to a refluxing suspension of 6.34 g 114 mmol, 3 equiv) of iron filings and 11.0 g (37.8 mmol) of N-(4-chlorophenyl)-N-methyl-4-nitrobenzamide in 200 ml of ethanol and 200 ml of water. The mixture was refluxed for 1 hour and allowed to cool to room temperature and then adjusted to a pH of 11 with 10% aqueous sodium hydroxide. The suspension was filtered and the residue washed 3 times with 200 ml of hot ethyl acetate. The solution was evaporated to remove the organics and the aqueous liquid was extracted 3 times with 200 ml of EtOAc. The combined organics were washed twice with 250 ml of water and 100 ml of brine, then dried over MgSO4, filtered and evaporated to obtain 10.4 g of the desired product as an orange solid.

reactant | hydrochloric acid | ca 40 mmol, 4 ml | Cl | ClH
reactant | N-(4-chlorophenyl)-N-methyl-4-nitrobenzamide | 37.8 mmol, 11.0 g | ClC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C14H11ClN2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
catalyst | iron | [Fe] | Fe
product | 4-amino-N-(4-chlorophenyl)-N-methylbenzamide | 10.4 g | NC1=CC=C(C(=O)N(C)C2=CC=C(C=C2)Cl)C=C1 | C14H13ClN2O
